US06300334B1
(3R)-1-{[1,2,3,4-Tetrahydro-3-methyl1-(2-methylpropyl)-6-(3-pyridinyl)methyl-2,4-dioxothieno[2,3-d]pyrimidin-5-yl]sulfonyl}pyrrolidin-3-ol
(R)-3-Hydroxypyrrolidine (50 mg) was added to the solution of 1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-6-(3-pyrdinyl)methyl-2,4-dioxothieno[2,3-d]pyrimidine-5-sulfonyl chloride (20 ml). After 1 hour, the solution was dried over anhydrous magnesium sulfate and filtered through a small silica pad, washing with ethyl acetate/methanol (19:1). The filtrate was evaporated and the residue was purified by preparative HPLC with dichloromethane:ethanol gradient elution followed by crystallisation from ethyl acetate/isohexane to give the title compound (11 mg).

reactant | (R)-3-Hydroxypyrrolidine | 50 mg | O[C@H]1CNCC1 | C4H9NO
reactant | 1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-6-(3-pyrdinyl)methyl-2,4-dioxothieno[2,3-d]pyrimidine-5-sulfonyl chloride | 20 ml | CN1C(N(C2=C(C1=O)C(=C(S2)CC=2C=NC=CC2)S(=O)(=O)Cl)CC(C)C)=O | C17H18ClN3O4S2
product | (3R)-1-{[1,2,3,4-Tetrahydro-3-methyl1-(2-methylpropyl)-6-(3-pyridinyl)methyl-2,4-dioxothieno[2,3-d]pyrimidin-5-yl]sulfonyl}pyrrolidin-3-ol | 11 mg | CN1C(N(C2=C(C1=O)C(=C(S2)CC=2C=NC=CC2)S(=O)(=O)N2C[C@@H](CC2)O)CC(C)C)=O | C21H26N4O5S2
